US04432981
C-2. 8-Ethyl-2-(3-pyridinyl)pyrido[2,3-d]pyrimidin-5(8H)-one--A mixture containing 8.7 g of 2-(3-pyridinyl)-pyrido[2,3-d]pyrimidin-5(8H)-one, 1.9 g of 50% sodium hydride in mineral oil and 250 ml of dimethylformamide was stirred at room temperature until evolution of hydrogen ceased. To the mixture was added an additional 50 ml of dimethylformamide and gentle heating was continued on a steam bath for 30 minutes. The mixture was cooled to room temperature and to it was added one drop of diisopropyl amine with stirring followed by an additional 100 mg of sodium hydride. Gentle heating with stirring was continued for another 30 minutes followed by cooling to room temperature. To the mixture was added with stirring at room temperature 6.1 g of ethyl iodide slowly in a fine stream and resulting reaction mixture was stirred at room temperature for three hours and then heated gently with stirring on a steam bath for four hours. The reaction mixture was then distilled in vacuo to remove the solvent and any other volatile materials and the residue was taken up and shaken well with a mixture of chloroform and water. The layers were separated and the chloroform layer was dried over anhydrous sodium sulfate, treated with decolorizing charcoal and filtered, and the filtrate was distilled in vacuo to remove the chloroform. The residue was dissolved in 150 ml of boiling acetonitrile: the resulting hot solution was treated with decolorizing charcoal and filtered; and, the filtrate was concentrated to a volume of 100 ml and cooled to complete precipitation of the product. The product was collected, washed successively with a small quantity of acetonitrile and n-hexane, and dried in vacuo at 65° C. to yield 6.5 g of 8-ethyl-2-(3-pyridinyl)pyrido[2,3-d]pyrimidin-5(8H)-one, m.p. 195°-196° C.

reactant | 2-(3-pyridinyl)-pyrido[2,3-d]pyrimidin-5(8H)-one | 8.7 g | N1=CC(=CC=C1)C=1N=CC2=C(N1)NC=CC2=O | C12H8N4O
reactant | sodium hydride | 1.9 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | sodium hydride | 100 mg | [H-].[Na+]
reactant | ethyl iodide | 6.1 g | C(C)I | C2H5I
catalyst | diisopropyl amine | one drop | C(C)(C)NC(C)C | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 8-ethyl-2-(3-pyridinyl)pyrido[2,3-d]pyrimidin-5(8H)-one | 6.5 g | C(C)N1C=CC(C2=C1N=C(N=C2)C=2C=NC=CC2)=O | C14H12N4O
